US06649643B1
Production of N-Cyclopropyl-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide
A mixture of N-cyclopropyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthamide (16.0 g) and pyridinium chloride (6.46 g) in methanol (84 mL) was heated at 60° C. for 3 h. The mixture was neutralized with sodium bicarbonate solution. The solvent was evaporated and the residue was dissolved in ethanol and insoluble material was filtered off. The filtrate was concentrated and purified by column chromatography (eluent; CHCl3: 8% methanolic ammonia=19:1→9:1) to give the titled compound (8.9 g) as a colorless powder.

reactant | N-cyclopropyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthamide | 16.0 g | C1(CC1)NC(=O)C1=CC2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C40H37N3O2
reactant | pyridinium chloride | 6.46 g | [Cl-].[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 84 mL | CO | CH4O
product | N-Cyclopropyl-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide | 8.9 g | C1(CC1)NC(=O)C1=CC2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CNC1)O | C21H23N3O2
